US07411072B2
9,10-Dihydro-3-thia-1-aza-benzo[f]azulen-4-one
To a room temperature solution of 2-amino-9,10-dihydro-3-thia-1-aza-benzo[f]azulen-4-one (5.31 g, 23.1 mmol) in DMF (50 mL) is added isoamyl nitrite (5.95 g, 50.8 mmol) and the reaction stirred for 30 min. The reaction mixture is heated to 80° C. for 2 h, and then cooled to room temperature. The solvent is removed under reduced pressure and ice-cold H2O (100 mL) is added. The aqueous layer is extracted with EtOAc (2×150 mL) and the combined organic layers are dried (MgSO4), filtered and the solvent removed under reduced pressure. The dark red oil is subjected to flash chromatography (silica gel, 75:25 Hex/EtOAc) to afford the slightly impure product as an orange-red solid. The product is further purified by trituration using Hex/EtOAc (90:10) to afford the title compound (2.59 g, 52%) as an orange solid: Rf 0.33 (1:1 EtOAc/Hex); mp 83-86° C.; 1H NMR (300 MHz, CDCl3) 8.89 (s, 1H), 7.96 (dd, J=1.2, 7.7 Hz, 1H), 7.50 (dt, J=1.4, 7.4 Hz, 1H), 7.37 (m, 1H), 7.30 (d, J=7.5 Hz, 1H), 3.36 (m, 2H), 3.24 (m, 2H); ESI MS m/z 216 [C12H9NOS+H]+. Anal. Calcd for C12H9NOS: C, 66.95; H, 4.21; N, 6.51.

reactant | 2-amino-9,10-dihydro-3-thia-1-aza-benzo[f]azulen-4-one | 23.1 mmol, 5.31 g | NC1=NC=2CCC3=C(C(C2S1)=O)C=CC=C3 | C12H10N2OS
reactant | isoamyl nitrite | 50.8 mmol, 5.95 g | N(=O)OCCC(C)C | C5H11NO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 9,10-Dihydro-3-thia-1-aza-benzo[f]azulen-4-one | 2.59 g, 52% | N1=CSC=2C(C3=C(CCC12)C=CC=C3)=O | C12H9NOS
